US04870076
2-[2-(p-Fluorobenzenesulphonylamino)-ethyl]-1-methylpyrrol
Prepared from 2-(2-aminoethyl)-1-methylpyrrol and p-fluorobenzenesulphonylchloride analogously to Example A.

reactant | 2-(2-aminoethyl)-1-methylpyrrol | NCCC=1N(C=CC1)C | C7H12N2
reactant | p-fluorobenzenesulphonylchloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | 2-[2-(p-Fluorobenzenesulphonylamino)-ethyl]-1-methylpyrrol | FC1=CC=C(C=C1)S(=O)(=O)NCCC=1N(C=CC1)C | C13H15FN2O2S
